US08193356B2
To a suspension of 4-hydroxy-3-(4-trifluoromethoxyphenylacetyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one (307 mg, 0.60 mmol) produced in Synthesis Example 19 in DMF (5 mL) was added hydrazine monohydrate (purity of 80%, 120 μL), and the mixture was stirred at 100 to 110° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, recrystallized from ethanol, and dried to give 3-(4-trifluoromethoxybenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one (190 mg, yield 63%).

reactant | 4-hydroxy-3-(4-trifluoromethoxyphenylacetyl)-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one | 0.60 mmol, 307 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)C(F)(F)F)=O)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H14F6N2O4
reactant | hydrazine monohydrate | 120 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(4-trifluoromethoxybenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]naphthyridin-4(5H)-one | 190 mg, yield 63% | FC(OC1=CC=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC(=CC=C3)C(F)(F)F)=O)C=C1)(F)F | C24H14F6N4O2
